Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abd Pain 
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
HISTORY OF PRESENT ILLNESS: Ms ___ is a pleasant ___ w/ HTN, 
endometriosis s/p BSO, asthma who p/w acute on chronic worsening 
of abdominal pain.  Since her surgery, she has had intestinal 
problems with constipation and diarrhea with intermittent 
stabbing and crampy pain that is b/l lower quadrants worse with 
BM and after eating. She follows Dr. ___ (___. 
___ for these complaints and had 2 colonoscopies within 
the past couple months (first was poor prep) that only showed 
diverticulosis. She was scheduled for a GI motility study today 
and started the fleet enema prep this morning. She did about ___ 
of the first of two fleet enemas and worsening LLQ cramping 
started. She had some BMs with hard, ball-like stool, and 
worsening N/sweats, and dizziness associated with her pain. She 
denies chills/V/dysuria/CP/dyspnea/edema/bloody BM. Does state 
that she feels hot

In the ED, initial vitals were: ___ 126/66 
18 95% RA Labs were unremarkable except for WBC of 11.4.  CT 
showed Acute colitis of the mid to distal descending through mid 
sigmoid colon,likely infectious or inflammatory. No drainable 
collection or extraluminalair.  Urine and blood cxs were sent.

She was given IV Tylenol and transferred to the floor.  On the 
floor, belly pain still prersits, nausea.  Belly pain severe.  
States she has lost 28 lbs in 3 month.   Always sob from asthma. 
 Chronic constipation.  Has had several hard BMs today.  

Review of systems:
(+) Per HPI
(-) Denies fever, chills, night sweats.  Denies headache, sinus 
tenderness, rhinorrhea or congestion. Denies cough, shortness of 
breath. Denies chest pain or tightness, palpitations. Denies 
nausea, vomiting, diarrhea, . No recent change in bowel or 
bladder habits. No dysuria. Denies arthralgias or myalgias. 10 
pt ros otherwise negative.

 
Past Medical History:
(per chart, confirmed with pt):
Asthma 
Endometromist s/p SBO
Chronic abd pain
HTN
Depression
 
Social History:
___
Family History:
HTN, father with prostate CA, Mother with uterine ca, diabetes
 
Physical Exam:
PHYSICAL EXAM:
Vitals: 98.___
Constitutional: Alert, oriented, no acute distress
EYES: Sclera anicteric,  EOMI, PERRL
ENT: MMM, oropharynx clear
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Respiratory: Clear to auscultation bilaterally, no wheezes, 
rales, rhonchi
GI: Soft, TTP, worse in lower quadrants, non-distended, bowel 
sounds present, no organomegaly, no rebound or guarding
GU: No foley
EXT: Warm, well perfused, no CCE
NEURO: aaox3 CNII-XII and strength grossly intact 
SKIN: no rashes or lesions
 
Pertinent Results:
___ 07:00AM BLOOD WBC-5.0# RBC-3.89* Hgb-12.1 Hct-35.4 
MCV-91 MCH-31.1 MCHC-34.2 RDW-12.5 RDWSD-41.1 Plt ___
___ 01:36PM BLOOD WBC-11.4*# RBC-4.29 Hgb-13.4 Hct-39.1 
MCV-91# MCH-31.2# MCHC-34.3 RDW-12.3 RDWSD-40.6 Plt ___
___ 01:36PM BLOOD Neuts-87.5* Lymphs-6.6* Monos-4.9* 
Eos-0.3* Baso-0.2 Im ___ AbsNeut-9.93* AbsLymp-0.75* 
AbsMono-0.56 AbsEos-0.03* AbsBaso-0.02
___ 07:00AM BLOOD Glucose-114* UreaN-19 Creat-0.9 Na-139 
K-3.5 Cl-105 HCO3-24 AnGap-14
___ 01:36PM BLOOD ALT-17 AST-18 AlkPhos-87 TotBili-0.5
___ 01:36PM BLOOD Lipase-36
___ 07:00AM BLOOD Calcium-8.9 Phos-4.2 Mg-2.0

FINDINGS:  
  
LOWER CHEST: Visualized lung fields are within normal limits. 
There is no 
evidence of pleural or pericardial effusion. 
  
ABDOMEN: 
  
HEPATOBILIARY: The liver demonstrates homogenous attenuation 
throughout.  
There is no evidence of focal lesions.  There is no evidence of 
intrahepatic 
or extrahepatic biliary dilatation.  The gallbladder is 
surgically absent. 
  
PANCREAS: The pancreas has normal attenuation throughout, 
without evidence of 
focal lesions or pancreatic ductal dilatation.  There is no 
peripancreatic 
stranding. 
  
SPLEEN: The spleen shows normal size and attenuation throughout, 
without 
evidence of focal lesions. 
  
ADRENALS: The right and left adrenal glands are normal in size 
and shape. 
  
URINARY: The kidneys are of normal and symmetric size with 
normal nephrogram.  
There is no evidence of focal renal lesions or hydronephrosis.  
There is no 
perinephric abnormality. 
  
GASTROINTESTINAL: The stomach is unremarkable.  Small bowel 
loops demonstrate 
normal caliber, wall thickness, and enhancement throughout.  
There is 
circumferential wall thickening of the distal descending through 
the mid 
sigmoid colon compatible with colitis.  There is surrounding 
inflammatory 
changes and free fluid in the pelvis though no extraluminal air 
or drainable 
collection.  Remaining portion of the colon is unremarkable.  
The appendix is 
normal. 
  
PELVIS: The urinary bladder and distal ureters are unremarkable. 
 There is no 
free fluid in the pelvis. 
  
REPRODUCTIVE ORGANS: Uterus is not visualized.  No adnexal 
abnormalities. 
  
LYMPH NODES: There is no retroperitoneal or mesenteric 
lymphadenopathy.  There 
is no pelvic or inguinal lymphadenopathy. 
  
VASCULAR: There is no abdominal aortic aneurysm.  No significant 

atherosclerotic disease is noted.  Visualized portion of the ___ 
is patent. 
  
BONES: There is no evidence of worrisome osseous lesions or 
acute fracture.  
Degenerative changes most notable for facet joint hypertrophy 
noted in the 
lower lumbar spine with minimal anterolisthesis of L4 on L5 as 
well. 
  
SOFT TISSUES: The abdominal and pelvic wall is within normal 
limits. 
  
IMPRESSION:  
  
Acute colitis of the mid to distal descending through mid 
sigmoid colon, 
likely infectious or inflammatory.  No drainable collection or 
extraluminal 
air. 

 
Brief Hospital Course:
Pt is a ___ y.o woman with h.o endometriosis s/p BSO, HTN, 
chronic
abdominal pain, HTN, depression, chronic constipation who
presented after worsening abdominal pain in the setting of bowel
prep for study found to have colitis on imaging.

#concern for acute colitis
#chronic constipation-ddx for possible colitis included 
infectious, vs inflammatory vs. related to enemas for testing. 
Pt without diarrhea, no documented fevers or
vomiting. Pt with extensive prior work up for constipation.
She was awaiting motility study at ___ before she developed 
worsened symptoms in the setting of bowel prep for motility 
study. She was briefly on cipro/flagyl for colitis until GI 
consult. Gi felt that this was sterocoral colitis and not 
infectious and recommended dc abx. She was able to tolerate a 
regular diet during admission. Her pain and symptoms otherwise 
were chronic.  
Pt will need to reschedule her outpt motility study that she 
missed while inpatient. 
Please see GI recommendations below. 

"Please stop all opiates as she has chronic pelvic pain and
chronic severe constipation which is likely going to worsen on
constipation
- At the time of discharge, she can be given instructions of
taking miralax 2 cap qid. If this does not work by day 3 try
daily suppository, If no BM by day 5, try tap water or soap ___
enemas daily. If no BM with enemas, by day 7- will contact
outpatient GI provider (at that time can try increasing 
frequency
of enemas or trying bowel prep)
- She has no evidence of colitis clinically and would recommend
dcing cipro and flagyl. the CT findings are likely due to
stercoral colitis. 
- She needs Anorectal manometry followed by MRI defecography if
needed. This should be arranged as outpatient. 
- Can try dicyclomine 10 mg BID for abdominal cramps."

#depression-continued home meds

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 10 mg PO DAILY 
2. BuPROPion XL (Once Daily) 150 mg PO DAILY 
3. Zonisamide 300 mg PO DAILY 
4. LamoTRIgine 200 mg PO BID 
5. Montelukast 10 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
you  can purchase OTC. Take as directed. Max daily dose 4gm  
2.  Bisacodyl 10 mg PR QHS:PRN constipation 
RX *bisacodyl 10 mg 1 suppository(s) rectally daily Disp #*20 
Suppository Refills:*0 
3.  DICYCLOMine 10 mg PO TID:PRN abdominal pain 
RX *dicyclomine 10 mg 1 capsule(s) by mouth three times a day 
Disp #*90 Capsule Refills:*0 
4.  Polyethylene Glycol 17 g PO QID 
RX *polyethylene glycol 3350 17 gram/dose 1 powder(s) by mouth 
four times a day Disp #*2635 Gram Gram Refills:*0 
5.  BuPROPion XL (Once Daily) 150 mg PO DAILY  
6.  LamoTRIgine 200 mg PO BID  
7.  Lisinopril 10 mg PO DAILY  
8.  Montelukast 10 mg PO DAILY  
9.  Zonisamide 300 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
constipation
abdominal pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for evaluation of abdominal pain and 
constipation. You had a CT scan that showed concern for colitis. 
After further consultation with the GI service, it was not felt 
that this was infectious in origin and your antibiotics were 
discontinued. For your constipation, the gastroenterologists 
have recommended that you take miralaxb 2 caps 4 times a day. If 
this does not work by day 3 try
daily suppository, If no BM by day 5, try tap water or soap ___
enemas daily. If no BM with enemas, by day 7-  contact
outpatient GI provider (at that time can try increasing 
frequency of enemas or trying bowel prep)
- GI recommends Anorectal manometry followed by MRI defecography 
if
needed. This should be arranged as outpatient. 
- Try dicyclomine 10 mg BID for abdominal cramps. 
 
Followup Instructions:
___